US06011174
(3) Preparation of 3-methoxy-4-phenoxyphenylacetone
953 mg of 1-(3-methoxy-4-phenoxyphenyl)-2-nitropropene, 1.31 g of iron, 9.5 mg of ferric chloride and 5 ml of water were mixed, and 1.5 ml of 6N hydrochloric acid was dropwise added over a period of 1.5 hours under reflux and heating. The reaction solution was subjected to celite filtration, and the filtrate was extracted with ethyl acetate. The extract solution was washed with a saturated sodium hydrogen carbonate aqueous solution and then, dried over anhydrous sodium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain 688 mg (yield: 80%) of the above identified compound as a colorless oily substance.

reactant | 1-(3-methoxy-4-phenoxyphenyl)-2-nitropropene | 953 mg | COC=1C=C(C=CC1OC1=CC=CC=C1)C=C(C)[N+](=O)[O-] | C16H15NO4
reactant | hydrochloric acid | 6N, 1.5 ml | Cl | ClH
reactant | water | 5 ml | O | H2O
catalyst | iron | 1.31 g | [Fe] | Fe
product | 3-methoxy-4-phenoxyphenylacetone | yield: 80% | COC=1C=C(C=CC1OC1=CC=CC=C1)CC(C)=O | C16H16O3
